US04090026
Phosphoryl chloride (87 ml) was added dropwise to a vigorously stirred mixture of thiosemicarbazide (100 g), methoxyacetic acid (100 g) and petroleum ether b.p. 80°-100° (200 ml) maintained at 60°-70°. The temperature of the mixture was slowly raised to 95° and was kept at this temperature until the evolution of gas ceased. The solvent was evaporated and the residual syrup was dissolved in water (200 ml) to give a yellow solution which was adjusted to pH 7 by the addition of 10N NaOH. The mixture was filtered to give 5-amino-2-methoxymethyl-(1,3,4)-thiadiazole (111.25 g). Recrystallisation from water gave compound with m.p. 177°-179°.

reactant | Phosphoryl chloride | 87 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | thiosemicarbazide | 100 g | NNC(=S)N | CH5N3S
reactant | methoxyacetic acid | 100 g | COCC(=O)O | C3H6O3
reactant | NaOH | 10N | [OH-].[Na+]
product | 5-amino-2-methoxymethyl-(1,3,4)-thiadiazole | 111.25 g | NC1=NN=C(S1)COC | C4H7N3OS
